US07572820B2
2-Methyl-4-(trifluoromethyl)-1-({5-[6-(trifluoromethyl)-3-pyridinyl]-1,3,4-oxadiazol-2-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C using [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 6-(trifluoromethyl)-3-pyridinecarbohydrazide: 1H NMR (400 MHz, DMSO-d6) δ 9.27 (s, 1H), 8.54 (d, J=8.3 Hz, 1H), 8.11 (d, J=8.3 Hz, 1H), 8.08 (d, J=8.3 Hz, 1H), 7.78 (d, J=8.3 Hz, 1H), 6.66 (s, 1H), 6.03 (s, 2H), 2.58 (s, 3H); MS (ES) m/z 474 (M+Na).

reactant | [5-cyano-2-methyl-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=C(N(C2=CC1)CC(=O)O)C)C(F)(F)F | C13H9F3N2O2
reactant | 6-(trifluoromethyl)-3-pyridinecarbohydrazide | FC(C1=CC=C(C=N1)C(=O)NN)(F)F | C7H6F3N3O
product | 2-Methyl-4-(trifluoromethyl)-1-({5-[6-(trifluoromethyl)-3-pyridinyl]-1,3,4-oxadiazol-2-yl}methyl)-1H-indole-5-carbonitrile | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC=1OC(=NN1)C=1C=NC(=CC1)C(F)(F)F | C20H11F6N5O
